US06441184B1
A mixture of 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid (4.14 g, 13.85 mmol) in formic acid (7.08 mL) was cooled to 0° C. and then treated with a 30% aqueous hydrogen peroxide solution (7.85 mL). Tetrahydrofuran (4 mL) was added to help solubilize the starting material. The resulting reaction mixture was allowed to warm to 25° C. where it was stirred at this temperature overnight. The reaction mixture was then cooled to 0° C. and slowly treated with a saturated aqueous sodium sulfite solution. The product was extracted into ethyl acetate (3×20 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (4.54 g, 99.1%) as a white solid: mp 123.9-126.2° C.; FAB-HRMS m/e calcd for C15H19ClO4S (M+H)+331.0771, found 331.0776.

reactant | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid | 13.85 mmol, 4.14 g | ClC=1C=C(C=CC1SC)C(C(=O)O)CC1CCCC1 | C15H19ClO2S
reactant | hydrogen peroxide | 7.85 mL | OO | H2O2
reactant | Tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | formic acid | 7.08 mL | C(=O)O | CH2O2
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 4.54 g, 99.1% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C15H19ClO4S
